US05574055
A solution of 0.5 g of (RS)-3-[5-(1,4-dioxa-spiro[4,5]decan-8-yl)-pyridin-2-yl]-5-methoxymethyl-oxazolidin-2-one in 20 ml of tetrahydrofuran and 5 ml of 2N hydrochloric acid was stirred at room temperature for 4 h. Then, 10 ml of 2N sodium hydroxide solution were added and the mixture was extracted several times with ethyl acetate. The organic phases were combined, dried with magnesium sulfate and concentrated. After chromatography with ethyl acetate on silica gel there was obtained 0.4 g of (RS)-5-methoxymethyl-3-[5-(4-oxo-cyclohexyl)-pyridin-2-yl]-oxazolidin-2-one. 1H-nmr (CDCl3) ppm: 8.22 (s, 1H), 8.18 (d,1H), 7.58 (d, 1H), 4.78 (m,1H), 4.27 (t, 1H), 4.09 (t, 1H), 3.64 (m, 2H), 3.43 (s, 3H), 3.08 (m, 1H), 2.51 (m, 4H), 2.04 (bm, 4H).

reactant | (RS)-3-[5-(1,4-dioxa-spiro[4,5]decan-8-yl)-pyridin-2-yl]-5-methoxymethyl-oxazolidin-2-one | 0.5 g | O1CCOC12CCC(CC2)C=2C=CC(=NC2)N2C(OC(C2)COC)=O | C18H24N2O5
reactant | sodium hydroxide | 2N, 10 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 2N, 5 ml | Cl | ClH
product | (RS)-5-methoxymethyl-3-[5-(4-oxo-cyclohexyl)-pyridin-2-yl]-oxazolidin-2-one | 0.4 g | COCC1CN(C(O1)=O)C1=NC=C(C=C1)C1CCC(CC1)=O | C16H20N2O4
